US04107308
4-[(2-Dimethylaminoethyl)amino]-imidazo[1,5-d]-as-triazine
A 5.0 gm. portion of 4-(methylthio)-imidazo[1,5-d]-as-triazine in a mixture of 30 ml. of unsymmetrical dimethylethylenediamine and 20 ml. of toluene is reacted as described in Example 40 giving the desired product as light yellow crystals, m.p. 172°-177° C.

reactant | 4-(methylthio)-imidazo[1,5-d]-as-triazine | CSC1=NN=CC=2N1C=NC2 | C6H6N4S
reactant | dimethylethylenediamine | CNCCNC | C4H12N2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-[(2-Dimethylaminoethyl)amino]-imidazo[1,5-d]-as-triazine | CN(CCNC1=NN=CC=2N1C=NC2)C | C9H14N6
